US05798093
A mixture of 13 parts of 1-(tetrahydro-3,3-diphenyl-2-furylidene) pyrrolidinium bromide, 5.3 parts of 4-phenyl-4-piperidinol, 8 parts of sodium carbonate, 0.2 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 5 hours with water separator. The reaction mixture is cooled and water is added. The organic layer s separated, washed with diluted sodium hydroxide solution, dried, filtered, and while stirring the filtrate, the product is crystallized. It is filtered off and dried, yielding 1-[4-(4-hydroxy-4-phenylpiperidino)-2,2-diphenylbutyryl]pyrrolidine; m.p. 187.5° C.

reactant | 1-(tetrahydro-3,3-diphenyl-2-furylidene) pyrrolidinium bromide | [Br-].C1(=CC=CC=C1)C1(C(OCC1)=[N+]1CCCC1)C1=CC=CC=C1
reactant | 4-phenyl-4-piperidinol | C1(=CC=CC=C1)C1(CCNCC1)O | C11H15NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-[4-(4-hydroxy-4-phenylpiperidino)-2,2-diphenylbutyryl]pyrrolidine | OC1(CCN(CC1)CCC(C(=O)N1CCCC1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C31H36N2O2
